US06900215B2
2,2-Dimethyl-3-oxobutyronitrile was converted to 5,5-diethoxy-2,2-dimethyl-3-oxopentanenitrile as described in Example 3, then condensed with 2-aminoimidazole hemisulfate following the procedure in Example 2, to give 2-(imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionitrile as a white solid: δH (400 MHz, CDCl3) 1.84 (6H, s), 7.27 (1H, d, J 7), 7.58 (1H, d, J 1), 7.84 (1H, d, J 1), 8.49 (1H, d, J 7).

reactant | 2,2-Dimethyl-3-oxobutyronitrile | CC(C#N)(C(C)=O)C | C6H9NO
reactant | 5,5-diethoxy-2,2-dimethyl-3-oxopentanenitrile | C(C)OC(CC(C(C#N)(C)C)=O)OCC | C11H19NO3
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 2-(imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionitrile | N=1C=CN2C1N=C(C=C2)C(C#N)(C)C | C10H10N4
